US04966901
Methyl 1-(2-acetylaminoethyl)-2,4,5-trimethylpyrrole-3-carboxylate
By reaction of methyl acetoacetate with 3-chloro-2-butanone and 2-acetylaminoethylamine analogously to Example 1.

reactant | methyl acetoacetate | C(CC(=O)C)(=O)OC | C5H8O3
reactant | 3-chloro-2-butanone | ClC(C(C)=O)C | C4H7ClO
reactant | 2-acetylaminoethylamine | C(C)(=O)NCCN | C4H10N2O
product | Methyl 1-(2-acetylaminoethyl)-2,4,5-trimethylpyrrole-3-carboxylate | C(C)(=O)NCCN1C(=C(C(=C1C)C)C(=O)OC)C | C13H20N2O3
